US08623889B2
To a solution of 2.0 M of lithium diisopropylamide in tetrahydrofuran (5.5 mL) in tetrahydrofuran (20 mL, 200 mmol) at −78° C. was slowly added 2-chloro-3-fluoro-4-iodopyridine (2.589 g, 10.06 mmol) as a solution in tetrahydrofuran (8 mL). The reaction mixture was then stirred at −78° C. for 4 hours. Methyl iodide (0.70 mL, 11 mmol) was then added. After an additional 1 hour, the reaction was then quenched with saturated aqueous NH4Cl and warmed to room temp. The reaction mixture was poured into ethyl acetate and washed sequentially with water and brine, dried over MgSO4, filtered, and evaporated in vacuo. The crude product was purified via flash chromatography on silica gel (80 g silica, solvent gradient: 0-30% ethyl acetate in heptanes) to yield 2.212 g (57%) of 2-chloro-3-fluoro-5-iodo-4-methylpyridine. LCMS (ESI): M+H=272.0; 1H NMR (500 MHz, CDCl3) δ 8.46 (s, 1H), 2.44 (d, J=1.2 Hz, 3H).

reactant | lithium diisopropylamide | 2.0 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-chloro-3-fluoro-4-iodopyridine | 10.06 mmol, 2.589 g | ClC1=NC=CC(=C1F)I | C5H2ClFIN
reactant | Methyl iodide | 11 mmol, 0.70 mL | CI | CH3I
solvent | tetrahydrofuran | 5.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mmol, 20 mL | O1CCCC1 | C4H8O
product | 2-chloro-3-fluoro-5-iodo-4-methylpyridine | 2.212 g, 57% | ClC1=NC=C(C(=C1F)C)I | C6H4ClFIN
